US08802728B2
Stir a mixture of 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenol (200 mg, 0.778 mmol), 2,2-dimethyl-propionyl chloride (111 mg, 0.927 mmol) and triethyl amine (234 mg, 2.316 mmol) in CH2Cl2 (40 mL) at ambient temperature for 12 hours. Concentrate the mixture under vacuum, and purify the residue by Preparative TLC to give 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester as white solid (232 mg, Yield: 87.5%). MS (m/z): 342 (M+1). 1H NMR (400 MHz, Methanol-d4) δ 7.29-7.32 (t, J=15.6 Hz, 1H), 7.06-7.08 (d, J=7.6, 1H), 6.88-6.90 (d, J1=8.0, J2=1.6, 1H), 6.84-6.85 (t, J=3.6, 1H), 6.05-6.07 (d, J=6.8, 1H), 3.22-3.32 (m, 1H), 2.52-2.60 (m, 1H), 2.62-2.63 (m, 1H), 2.37-2.41 (m, 1H), 2.17 (s, 6H), 2.07-2.14 (m, 1H), 1.71-1.85 (m, 6H), 1.37 (s, 9H).

reactant | 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenol | 0.778 mmol, 200 mg | CN(C)CC1C(=CC2CCC1C2)C=2C=C(C=CC2)O | C17H23NO
reactant | 2,2-dimethyl-propionyl chloride | 0.927 mmol, 111 mg | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | triethyl amine | 2.316 mmol, 234 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester | 232 mg, Yield: 87.5% | CN(C)CC1C(=CC2CCC1C2)C=2C=C(C=CC2)OC(C(C)(C)C)=O | C22H31NO2
